US07935699B2
To the solution of 3-oxo-cyclobutanecarboxylic acid (1.0 g, 8.77 mmol) in methanol (12 ml) was added trimethyl orthoformate (6 ml, 58.29 mmol) and a catalytic amount of p-toluenesulfonic acid monohydrate. The reaction was stirred at reflux for 2 h. After such a time it was cooled and concentrated in vacuo to remove the methanol. The remaining residue was dissolved in ether and then washed with a saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered and concentrated in vacuo to afford 3,3-dimethoxy-cyclobutanecarboxylic acid methyl ester (1.48 g, 97%) as a yellow oil: 1H NMR (300 MHz, CDCl3) δ ppm 2.33-2.51 (m, 4H, 2×CH2), 2.82-2.97 (m, 1H, CH), 3.16 (s, 3H, OCH3), 3.18 (s, 3H, OCH3), 3.71 (s, 3H, CO2CH3).

reactant | 3-oxo-cyclobutanecarboxylic acid | 8.77 mmol, 1.0 g | O=C1CC(C1)C(=O)O | C5H6O3
reactant | trimethyl orthoformate | 58.29 mmol, 6 ml | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 12 ml | CO | CH4O
product | 3,3-dimethoxy-cyclobutanecarboxylic acid methyl ester | 1.48 g, 97% | COC(=O)C1CC(C1)(OC)OC | C8H14O4
